US04307233
A mixture of ethyl 2-methoxyimino-3-oxo-butyrate, syn isomer (52 g), ethanol (300 cc) and 1 N sodium hydroxide solution (330 cc) is heated under reflux for 15 hours. The mixture is concentrated by evaporation of ethanol at 20° C. under a pressure of 20 mm Hg (2.7 kPa) and is then extracted with methylene chloride (150 cc). The aqueous phase is treated with animal charcoal (1 g), filtered, saturated with sodium chloride, cooled to 4° C. and acidified to pH2 with 2 N hydrochloric acid in the presence of methylene chloride (200 cc). It is then re-extracted with the same solvent (2×100 cc), followed by ethyl acetate (6×200 cc). The organic phases are dried over sodium sulphate and concentrated to dryness separately at 20° C. under 20 mm Hg (2.7 kPa). The residues are combined and treated with isopropyl ether (80 cc) for 4 hours, with very vigorous stirring. The crystals obtained are filtered off and dried, and 2-methoxyimino-3-oxo-butyric acid, syn isomer (8.9 g) is thus obtained.

reactant | ethyl 2-methoxyimino-3-oxo-butyrate | CON=C(C(=O)OCC)C(C)=O | C7H11NO4
reactant | sodium hydroxide | 1 N, 330 cc | [OH-].[Na+]
solvent | ethanol | 300 cc | C(C)O | C2H6O
product | 2-methoxyimino-3-oxo-butyric acid | CON=C(C(=O)O)C(C)=O | C5H7NO4
